US20010046993A1
G. 1-[(4-Benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile
To a solution of l-[(4-benzyl-1-piperazinyl)methyl]ethanecarbonitrile (9.0 g/39.3 mmol) in tetrahydrofuran (300 ml) was added dropwise 2.0 M solution of lithium diisopropylamide (98 ml/197 mmol) at −78° C., and then the resulting mixture was stirred for 30 minutes. 1,5-Dibromopentane (8 ml/59 mmol) was added to the mixture in one portion and the resulting mixture was allowed to warm to ambient temperature. The mixture was stirred for 3 hours. Then, H2O (150 ml) was added for quenching. The mixture was extracted with ethyl acetate (200 ml×2). The combined extracts were washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (Si, 230-400 mesh/150 g/dichloromethane:methanol=100:0-100:4) to give a brown solid (11 g/94%).

reactant | l-[(4-benzyl-1-piperazinyl)methyl]ethanecarbonitrile | 39.3 mmol, 9.0 g | C(C1=CC=CC=C1)N1CCN(CC1)CC(C)C#N | C15H21N3
reactant | lithium diisopropylamide | 197 mmol, 98 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,5-Dibromopentane | 59 mmol, 8 ml | BrCCCCCBr | C5H10Br2
reactant | H2O | 150 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-[(4-Benzyl-1-piperazinyl)methyl]cyclohexanecarbonitrile | C(C1=CC=CC=C1)N1CCN(CC1)CC1(CCCCC1)C#N | C19H27N3
